US04954501
6-[4-[(3-aminopropyl)amino]-3-nitro-phenyl]-4,5-dihydro-5-hydroxymethyl-3(2H)-pyridazinone
14.0 g (50 mmol) of 6-(4-chloro-3-nitro-phenyl)-4,5-dihydro-5-hydroxymethyl-3(2H)-pyridazinone are heated to 60° C. together with 50 ml of 1,3-diaminopropane in 40 ml of dioxane for 8 hours.

reactant | 6-(4-chloro-3-nitro-phenyl)-4,5-dihydro-5-hydroxymethyl-3(2H)-pyridazinone | 50 mmol, 14.0 g | ClC1=C(C=C(C=C1)C=1C(CC(NN1)=O)CO)[N+](=O)[O-] | C11H10ClN3O4
reactant | 1,3-diaminopropane | 50 ml | NCCCN | C3H10N2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 6-[4-[(3-aminopropyl)amino]-3-nitro-phenyl]-4,5-dihydro-5-hydroxymethyl-3(2H)-pyridazinone | NCCCNC1=C(C=C(C=C1)C=1C(CC(NN1)=O)CO)[N+](=O)[O-] | C14H19N5O4
